US04294843
A solution of 2-nitrophenylsulphenyl chloride (1.44 g, 7.5×10-3 mol) in chloroform was added dropwise to a solution of 3-(2-aminophenylthiomethyl)-1,2,4-oxadiazole in chloroform (20 ml). The yellow mixture was stirred overnight, the crude product collected by filtration and recrystallised from ethyl acetate/hexane to give 3-[2-(2-nitrophenylsulphenylamino)phenyl]thiomethyl-1,2,4-oxadiazole, m.p. 90° (dec.).

reactant | 2-nitrophenylsulphenyl chloride | 7.5×10-3 mol, 1.44 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
reactant | 3-(2-aminophenylthiomethyl)-1,2,4-oxadiazole | NC1=C(C=CC=C1)SCC1=NOC=N1 | C9H9N3OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[2-(2-nitrophenylsulphenylamino)phenyl]thiomethyl-1,2,4-oxadiazole | [N+](=O)([O-])C1=C(C=CC=C1)SNC1=C(C=CC=C1)SCC1=NOC=N1 | C15H12N4O3S2
